US05413999
Following substantially the same procedure for synthesizing N-t-butyl-4(S)-phenoxy-L-prolineamide trifluoroacetic acid salt as outlined in Example 1, Steps 6 through 8, but substituting 1-naphthol for the phenol used therein, the 1-naphthyloxy proline amide was produced.

reactant | N-t-butyl-4(S)-phenoxy-L-prolineamide trifluoroacetic acid salt | FC(C(=O)O)(F)F.C(C)(C)(C)NC([C@H]1NC[C@H](C1)OC1=CC=CC=C1)=O
reactant | 1-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 1-naphthyloxy proline amide | C1(=CC=CC2=CC=CC=C12)ON1[C@H](C(=O)N)CCC1 | C15H16N2O2
